US06949542B2
3-[3-(6-Methylamino-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester
The title compound was prepared from 3-[6-methylamino-pyrimidin-4-yl]-benzoic acid methyl ester [prepared by the following procedure: 3-(6-Chloro-pyrimidin-4-yl)-benzoic acid (1.49 g, 6 mmol) was heated in 40% aqueous methylamine (5 ml) to 80° C. for 14 h. The mixture was evaporated in vacuum and the residual oil was stirred in 1N HCl-MeOH (10 ml) for 36 h at 50° C. The crude product was purified by chromatography (silica gel, AcOEt) to give the methyl ester as yellow solid (0.62 g).] (0.60 g, 2.4 mmol) by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as a white solid (0.72 g).

reactant | 3-[6-methylamino-pyrimidin-4-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=NC=NC(=C1)NC)=O | C13H13N3O2
reactant | 3-(6-Chloro-pyrimidin-4-yl)-benzoic acid | 6 mmol, 1.49 g | ClC1=CC(=NC=N1)C=1C=C(C(=O)O)C=CC1 | C11H7ClN2O2
solvent | methylamine | 5 ml | CN | CH5N
product | 3-[3-(6-Methylamino-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC=NC(=C1)NC)=O | C18H21N3O3
